US06696470B2
2,4-Dimethyl-3-(1-hydroxyiminoethyl)-5-(4-pyridyl)furan
To a stirred solution of 3-acetyl-2,4-dimethyl-5-(4-pyridyl)furan (0.5 g, 2.33 mM) in EtOH (10 mL) and pyridine (2 mL) was added hydroxylamine hydrochloride (0.2 g, 2.79 mM) at room temperature. After stirring overnight, volatiles were removed by evaporation. Ethyl acetate (100 mL) and water (70 mL) were added, and partitioned. The organic layer was washed with water, brine, dried over MgSO4, and concentrated in vacuo. The resulting solid was triturated to give the subtitle compound (0.45 g, 84% yield).

reactant | 3-acetyl-2,4-dimethyl-5-(4-pyridyl)furan | 2.33 mM, 0.5 g | C(C)(=O)C1=C(OC(=C1C)C1=CC=NC=C1)C | C13H13NO2
reactant | hydroxylamine hydrochloride | 2.79 mM, 0.2 g | Cl.NO
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2,4-Dimethyl-3-(1-hydroxyiminoethyl)-5-(4-pyridyl)furan | 0.45 g, 84% yield | CC=1OC(=C(C1C(C)=NO)C)C1=CC=NC=C1 | C13H14N2O2
